US04237144
Cuprous iodide (5.7 g., 0.03 mole) is placed in a 250 ml. three-necked round-bottom flask equipped with a magnetic stirring bar, septum stopper, nitrogen inlet and CaSO4 drying tube. The flask is flame dried while purging it with nitrogen. Diethyl ether (80 ml.) is added and the flask is cooled to 0° C. Methyl lithium (42.8 ml. of 1.4 M solution, 0.06 mole) is added to the stirred mixture. After ten minutes at 0° C. the temperature is lowered to -78° C. A cooled etheral solution (25 ml.) of 6,7-dichloro-2,3-dihydro-5-(2-thenoyl)benzofuran-2-carbonyl chloride (3.6 g., 0.01 mole) is added. After stirring 15 minutes at -b 78° C., the reaction is quenched by adding methanol (3.52 g., 0.011 mole). The reaction mixture is allowed to warm up to 25° C. and then is poured into 150 ml. of saturated aqueous ammonium chloride. The mixture is extracted with ether (3×50 ml.). The ether extracts are combined, dried over MgSO4 and evaporated in vacuo to give 2-acetyl-6,7-dichloro-2,3-dihydro-5-(2-thenoyl)benzofuran.

reactant | Methyl lithium | 0.06 mole, 1.4 M, 42.8 ml | C[Li]
reactant | 6,7-dichloro-2,3-dihydro-5-(2-thenoyl)benzofuran-2-carbonyl chloride | 0.01 mole, 25 ml, 3.6 g | ClC1=C(C2=C(CC(O2)C(=O)Cl)C=C1C(C1=CC=CS1)=O)Cl | C14H7Cl3O3S
reactant | methanol | 0.011 mole, 3.52 g | CO | CH4O
reactant | ammonium chloride | [Cl-].[NH4+]
product | 2-acetyl-6,7-dichloro-2,3-dihydro-5-(2-thenoyl)benzofuran | C(C)(=O)C1OC2=C(C1)C=C(C(=C2Cl)Cl)C(C2=CC=CS2)=O | C15H10Cl2O3S
